US03937737
33.6 g (0.4 mol) of diketene were added drop by drop, while stirring at -30°C, to 37.6 g (0.2 mol) of 2,6-dimethoxynaphthalene in 200 ml of anhydrous hydrofluoric acid and the mixture was stirred for another 8 hours at said temperature. The hydrogen fluoride was distilled off under reduced pressure at a temperature of the still of -30°C and the residue washed until it was free from acid. After sublimation of unreacted starting product (11 g = 71 % conversion) colorless crystals of 1-acetoacetyl-2,6-dimethoxynaphthalene melting at 88°C were obtained by column chromatography (silica gel, 0.065 - 0.2 mm, CH2Cl2) in an amount of 35 g (90 % calculated on 2,6-dimethoxynaphthalene).

reactant | diketene | 0.4 mol, 33.6 g | C=C1CC(=O)O1 | C4H4O2
reactant | 2,6-dimethoxynaphthalene | 0.2 mol, 37.6 g | COC1=CC2=CC=C(C=C2C=C1)OC | C12H12O2
solvent | hydrofluoric acid | 200 ml | F | FH
product | 1-acetoacetyl-2,6-dimethoxynaphthalene | C(CC(=O)C)(=O)C1=C(C=CC2=CC(=CC=C12)OC)OC | C16H16O4
